datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C)([NH][H])[O][H].[Cl-]>>[Cl-].C[O:10][H].C[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1CC)CC.[O-:21]C>>[H]C1C(O[C:20](N1CC)([O-:10])[O:21]C)CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CCCCCC)[H]>>CN([C:20]1(OC(C(C([O:21]1)CC)[H])CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]([O:21]C)([S]C)[S][H].[Cl-]>>[Cl-].[H][S:10][H].C[O+:21]=[C:20]([S]C)[S][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C([H])N1[H]>>[O:10]([K])C([H])C([H])N([C:20](OCC)=[O:21])[H] 21=20;20,10=10"
"[OH:10]C(C(C1=C(C=CC=C1)[CH:20](OC)=[OH+:21])O)[H]>>[OH:21][CH:20]2(OC)C3=C(C(C([OH+:10]2)[H])O)C=CC=C3 10=20;20,21=21"
"[H][O:10]C(CC)C(C)[O][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(CC)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(CC)[S]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C1=CC=CC=C1)C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O]C(C)C([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)CC)CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)CC)CCCCCC 10=20;20,21=21"
"[K][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OCCCCCC)C1=CC=CC=C1>>[K][O:21]C1=CC=CC=C1.[C:20](=[O:10])(OC1=CC=CC=C1)OCCCCCC 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C(C)C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C(C)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[O]2.CC[S:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H]N([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)C1=CC=CC=C1>>[H]N([C:20](=[O:10])OCC)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][S:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
